US07211573B2
6.03 g (17.0 mmol) 2-tert-butoxycarbonylamino-3-(2-nitro-phenoxy)-pentanoic acid in 110 ml methanol were hydrogenated with 0.21 g Palladium 10% on charcoal. Filtration and removal of the solvent by distillation yielded 5.22 g (95%) 3-(2-amino-phenoxy)-2-tert-butoxycarbonylamino-pentanoic acid as red oil, MS m/e (%): 325.3 (M+H+, 100).

reactant | 2-tert-butoxycarbonylamino-3-(2-nitro-phenoxy)-pentanoic acid | 17.0 mmol, 6.03 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(CC)OC1=C(C=CC=C1)[N+](=O)[O-] | C16H22N2O7
solvent | methanol | 110 ml | CO | CH4O
catalyst | Palladium | 0.21 g | [Pd] | Pd
product | 3-(2-amino-phenoxy)-2-tert-butoxycarbonylamino-pentanoic acid | 5.22 g, 95% | NC1=C(OC(C(C(=O)O)NC(=O)OC(C)(C)C)CC)C=CC=C1 | C16H24N2O5
